US06995162B2
2-Chloro-N-[3-(2-pyrrolidin-1-yl-ethoxy)-4-trifluoromethyl-phenyl]-nicotinamide was prepared from 3-(2-pyrrolidin-1-yl-ethoxy)-4-trifluoromethyl-phenylamine and 2-chloropyridine-3-carbonyl chloride by a procedure similar to that described in the preparation of 1-Boc-4-{3-[(2-chloro-pyridine-3-carbonyl)-amino]-5-trifluoromethyl-phenoxy}-piperidine.

reactant | 3-(2-pyrrolidin-1-yl-ethoxy)-4-trifluoromethyl-phenylamine | N1(CCCC1)CCOC=1C=C(C=CC1C(F)(F)F)N | C13H17F3N2O
reactant | 2-chloropyridine-3-carbonyl chloride | ClC1=NC=CC=C1C(=O)Cl | C6H3Cl2NO
reactant | 1-Boc-4-{3-[(2-chloro-pyridine-3-carbonyl)-amino]-5-trifluoromethyl-phenoxy}-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)NC(=O)C=1C(=NC=CC1)Cl | C23H25ClF3N3O4
product | 2-Chloro-N-[3-(2-pyrrolidin-1-yl-ethoxy)-4-trifluoromethyl-phenyl]-nicotinamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)C(F)(F)F)OCCN2CCCC2)C=CC=N1 | C19H19ClF3N3O2
